US04156609
2-Chloro-6-cyano-4-(3-fluorosulfonylphenylazo)phenyl acetate
3-Chloro-5-(3-fluorosulfonylphenylazo)-2-hydroxybenzaldehyde oxime (22.5 g, 0.063 mol) was added to 150 ml acetic anhydride and heated to 95° C. Sodium acetate (3.0 g) was added. After 21/2 hours, the reaction mixture was poured into 750 ml water and stirred at room temperature until anhydride fully hydrolysed. The resulting precipitate was filtered off. The solids which became gummy on standing were dissolved in 75 ml chloroform and poured onto a silica gel column. Elution with 10% hexane in chloroform gave the desired dye as the first component. Removal of the solvents under reduced pressure gave an oil which hardened on standing but did not crystallize. Yield: 16.8 g (70%).

reactant | 3-Chloro-5-(3-fluorosulfonylphenylazo)-2-hydroxybenzaldehyde oxime | 0.063 mol, 22.5 g | ClC=1C(=C(C=NO)C=C(C1)N=NC1=CC(=CC=C1)S(=O)(=O)F)O | C13H9ClFN3O4S
reactant | acetic anhydride | 150 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | Sodium acetate | 3.0 g | C(C)(=O)[O-].[Na+]
solvent | water | 750 ml | O | H2O
product | 2-Chloro-6-cyano-4-(3-fluorosulfonylphenylazo)phenyl acetate | C(C)(=O)OC1=C(C=C(C=C1C#N)N=NC1=CC(=CC=C1)S(=O)(=O)F)Cl | C15H9ClFN3O4S
